Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"last two weeks been feeling increasingly
depressed and anxious"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ yo M with PPHx of depression, one past 
SA
by wrist-cutting, no past inpatient psychiatric 
hospitalizations,
who presents to the ___ ED via EMS after texting his 
girlfriend
about recently worsening depressive and anxiety symptoms.

Pt reports that without a clear precipitant, since 2 weeks ago,
he experienced worsening of depressed mood, "feeling trapped",
sleep disturbance (sleep initiation issues lasting up to 2 hours
falling asleep, and up to 2 nighttime awakenings), decreased
appetite with 15 lbs weight loss, "losing motivation" to not 
even
really performing ADLs such as showering/brushing teeth, and
having passive suicidal thoughts. Energy has been "depleted" for
the 2 weeks, has been feeling worthlessness (not feeling he's 
cut
out for many things which he objectively knows he is doing okay
in such as his academics), and poor concentration (difficulty
focusing/studying). 

He also shares that in the past 2 weeks, he has had severe
new-onset anxiety, keeping him up at night (worrying about
"everything"), with panic attacks in the past 4 nights during
which he experiences chest tightness, dyspnea, uncontrollable
crying, diaphoresis, and some nausea, lasting as long as 2 
hours.

He reports feeling alone and not being able to talk about these
issues with anyone except his girlfriend who has been in ___
since ___ for a study abroad program. He was on the phone
texting her for about one hour talking about these symptoms, and
then he fell asleep for about 30 minutes which he assumes led to
his girlfriend becoming concerned that he was doing something to
hurt himself. She called ___ and they knocked on his
door, and then he was brought to ___ via EMS.

Pt states that the previous time he struggled with depressive
symptoms was ___ years ago when he started freshman year in
college. He saw a therapist and a psychiatrist when he returned
home during the summer at that time who offered ongoing therapy
and initiating antidepressants; he did not follow-through with
them as he felt that his sxs got better and reports that since
then until the past 2 weeks, he felt relatively stable and able
to perform in school. 

Currently reports mood as "anxious", does not have any
psychopharm/therapy providers in the area, and family is in ___
and is unable to be with him to monitor him until he can attend
outpatient follow-up appointments. Identifies his girlfriend as
the only other person he can open up to and feel comfortable
about discussing these topics, but she remains in ___.

Also of note, pt initially remained very pleasantly minimizing 
of
his current situation, describing the scar on his L wrist as
having been a superficial SIB last summer, but once I ask to go
through his text messages with girlfriend to clarify if there 
are
any other safety concerns, he becomes tearful and states that he
has not been honest and he has had tried to commit suicide in 
the
past and that the scar on his wrist was from trying to kill
himself with a hunting knife last summer. He also shares that he
may be doing worse than he initially presented the sxs, stating
"actually it's pretty bad, the anxiety and depression have been
really bad" and states that he has had recurrent passive SI of
"things would be better if I'm not around", and although anxious
is amenable to the idea of receiving inpatient level of care."

Per Dr. ___ with parents on way up to ___ from 
___
"Spoke w/ his father ___ ___ and mother ___, who 
were
in transit on their way to ___, they were both surprised that
___ was in the ED, I described to them that a friend of his
called campus security because they were concerned about him. 
His
parents mention that ___ was communicating with them as if
nothing has occurred or was wrong." 

Per Dr. ___ ___ collateral note
"Received phone call from ___ asking for update on patient; I
wasn't sure if we had discussed with patient providing
information to ___. 
___ said that patient is not known to their counseling 
center.
___ police were called by a friend of the patient last night
saying that patient had expressed SI in a phone call and text
message. Patient denied this to ___ police but after speaking to
EMTs, agreed to go to hospital for psychiatric evaluation.
___ asked that ___ be kept updated of patient's status; I told
her that we discuss with him what information he felt 
comfortable
sharing with them.  Her phone number is ___

In the ED, patient was calm cooperative. Received Ativan 1mg
Ativan at 1300." Significant time spent with patient and family
discussing inpatient hospitalization. Patient and family
initially opposed to hospitalization. ___ paperwork
explained in addition to process of paperwork on arrival to 
unit.
Concern for missing schoolwork and classes discussed at length.
Patient and family in agreement with plan prior to transport. 

On interview on arrival to the unit, patient reports that he
presented to the hospital due to escalating anxiety and
depressive symptoms secondary to psychosocial stressors
(intensity in school). Patient reports that he felt increasingly
helpless, isolated and while texting a close friend who is
currently living in ___, he stated that he had thoughts of
wanting to end his life. Patient denies plan or intent. His
friend in ___ was concerned and notified BU who sent campus
police. He states that he fell asleep and when he woke up by the
police at his door. 

Patient states that at the beginning of the school year he was
doing really well, socializing, performing well in class
exercising, and that his mood was good. He said for "no reason"
that he can identify, he started experiencing poor mood,
insomnia, lack of concentration. Patient reports that his sleep
has been particularly difficult. ___ states he has severe
racing thoughts interfering with ability to fall asleep, 
frequent
awakenings, and occasional "panic" like attacks at night. These
episodes of panic, include sweats and chills, sob and chest
tightness with associated racing thoughts that resolve gradually
after one hour. Patient was attending classes but noticed that 
he
was not been performing well. This week in the setting of
multiple tests in Organic chemistry, cell biology, anatomy
patient reported increasing passive suicidality. 

Patient denies periods of having increased energy goal directed
behavior, hyper sexuality, lack of need for sleep. Endorses 
prior
SA over the summer with a knife. Patient denies intent stating
that action was more "reactive" and that he performed it 
"without
thinking" rather than as a need for escape. He says he
immediately regretted it because it hurt.
REVIEW OF SYSTEMS:
 -Psychiatric: 
psychomotor agitation or retardation, avoidance, phobias,
erratic/risky behavior, increased activity, decreased need for
sleep, or talkativeness/pressured speech, denies auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.

-General: 
denies
focal numbness, focal weakness, changes in vision,
cough, SOB, CP, palpitations, dysuria, rash, skin changes, joint
pain, muscle pain.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Past diagnoses: depression
- Hospitalizations: denies
- Psychiatrist: saw a psychiatrist in ___ in ___ who
recommended starting an antidepressant, but he did not follow
through
- Therapist: ___ (does not recall last name), also seen in
___ in ___, met for a few therapy sessions
- Medication and ECT trials: denies
- Self-injury/Suicide attempts: L forearm wrist cutting this
summer (initially reported this as a superficial SIB, but then
later corrects it as having been an SA), utilized his brother's
hunting knife to do it while alone at home
- Harm to others: denies
- Trauma: denies

PAST MEDICAL HISTORY:
- PCP: does not know name ___, Dr. ___ listed)
- Head trauma: denies
- Seizures: denies
- PMHx: denies

HOME MEDICATIONS:
denies prescribed medications
denies over-counter medications including workout supplements

ALLERGIES:
Patient recorded as having no known allergies to drugs           

 
Social History:
SUBSTANCE USE HISTORY:
- EtOH: social drinking on weekends (3 cans of beer), blackout
x1, no withdrawals
- Tobacco: includes in marijuana (sprinkles), daily ___ years)
- Cannabis: ___ years, daily bong use for recreational/socializing 

- Illicits: denies

FORENSIC HISTORY:
- Arrests: denies 
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole):denies

SOCIAL HISTORY:
___
Family History:
- Fam Dx: maternal great grandmother depression (completed
suicide)
- Fam Hospitalizations: denies
- Fam Treatment Hx/Med Trials: denies
- Fam Hx Suicide: great grandma
 
Physical Exam:
ON ADMISSION:
VITAL SIGNS:
97.7
135/80
85 
18 
97

EXAM:

General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
 oropharynx clear. No scleral icterus, 
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
 murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing. Lungs clear to
 auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.
 -Extremities: Warm and well-perfused. No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 3mm, equal, round
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings,
 -Sensory: deferred
 -DTRs: 2+ patellar, brachioradialis
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation. Narrow-based, normal stride and arm
 swing.  

Absence of resting tremor, absence of action tremor
Absence of rigidity or spasticity
Absence of asterixis

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: ___ ___, summer
 -Executive function (go-no go, Luria, trails, FAS): 
     absence of ideomotor apraxia: able to brush teeth, comb 
hair
 -Memory: deferred
 -Fund of knowledge: Consistent with education; intact to last 4
 presidents
 -Calculations: 1.10 = 22 nickels
 -Abstraction: grass is green oos = "hang in there keep grinding
and then you'll find the green grass"
 -Visuospatial: L thumb to R. ear
 -Language: Native ___ speaker, no paraphasic errors,
 appropriate to conversation

Mental Status:
 -Appearance/Behavior:
     gentleman appearing slightly older than stated age, clean,
well groomed, athletic build, smiling intermittently. good eye
contact, absence of psychomotor agitation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "stressed"
 -Affect: mildly anxious, smiling occasionally appropriately
socially but incongruent to underlying mood 
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
 associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
 internal stimuli
 -Insight: poor
 -Judgment: poor

ON DISCHARGE:
Mental Status Exam:
Appearance: Well-groomed, taking showers 
facial expression: relaxed, smiling on approach
build: WNL
Behavior: engaging, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "OK", stable, much brighter, hopeful
thought Process/content: reality oriented, goal directed, 
denies SI/HI, denies AH/VH/delusions
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: Grossly intact 
insight: Fair
Judgment: Fair

 
Pertinent Results:
LABS, IMAGING, AND OTHER STUDIES:
___: WBC: 7.4
___: RBC: 5.54
___: HGB: 16.7
___: HCT: 49.4
___: MCV: 89
___: MCH: 30.1
___: MCHC: 33.8
___: RDW: 11.5
___: Plt Count: 230
___: Neuts%: 55.2
___: Lymphs: 28.9
___: MONOS: 12.6
___: Eos: 2.4
___: BASOS: 0.5
___: AbsNeuts: 4.08

___: Na: a) 142 
___: K: a) 4.4 (b) 4.5 
___: Cl: a) 103; b) 98
___: CO2: a) 26; b) 25
___: BUN: a) 14; b) 20
___: Creat: a) 1.1; b) 1.3*
___: Glucose: a) 98 b) 99 

___ 06:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 08:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. He did not 
require physical or chemical restraints during his 
hospitalization. 

2. PSYCHIATRIC:
The patient is a ___ y/o SWM, pre-med BU student,  hx of 
depressive Sx in the past, no hx of psychiatric 
hospitalizations, s/p one SA by wrist cutting using ___ 
knife, no medication trials, who presented to the ___ ED via 
EMS after texting his
girlfriend about recently worsening depressive and anxiety 
symptoms.

On admission, patient expressed difficulty with concentration 
and sleep, decreased appetite resulting in 15 pound weight loss, 
decreased energy and ability to perform ADLs, hopelessness, 
worthlessness, and passive SI. Examination was notable for 
anxious and dysphoric underlying mood with overly bright/smiling 
affect. He was pleasant, easily engaging, and forthcoming during 
interview and denied any intentions of hurting self in the unit, 
but exhibited poor insight into mental illness and poor 
judgment.  

The patient’s presentation was concerning for Adjustment 
disorder with mixed emotional features vs MDD. Patient was 
initially started on Sertraline 25 mg daily, LORazepam 1 mg 
PO/NG BID:PRN for insomnia/anxiety, and Ramelteon 8 mg PO/NG 
QHS:PRN for insomnia. During hospitalization, Sertraline was 
increased to 50 mg daily. The patient tolerated the change in 
dose well and found it to be helpful for his mood. 

At time of discharge, patient was able to describe that his mood 
was more "in control" and patient had brighter affect. Able to 
express goal and future oriented mindset with improved insight 
and judgment. Expressed understanding of how to manage stress at 
discharge and provided examples of re-starting his running 
routine or speaking with his therapist. No longer endorsed 
suicidal ideation and sleep, concentration, energy, appetite 
overall improved.

3. SUBSTANCE USE DISORDERS:
#)Cannabis Use Disorder: Provided education regarding 
deleterious effects of
substance use on medical and psychiatric health. Further 
provided individual and group therapy, focused on sobriety and 
coping skills regarding substance use. 

4. MEDICAL
N/A

5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He was often visible in the 
milieu and was appropriate in his interaction with peers and 
staff without ever requiring restraint or seclusion. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family (mother and father) was involved in the 
patients’ treatment and discharge planning, and was provided 
with the opportunity to discuss the patient’s diagnosis and 
treatment with the primary treatment team. The patient’s family 
was supportive of the patient’s treatment and aftercare plan. 
Spoke with mother and father daily with updates. 
 

#) INTERVENTIONS
- Medications: Sertraline 50 mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Pt has appointments with PCP, 
___, and BU intake
- Behavioral Interventions: Encourage consistent outpatient 
therapy follow-up
- Guardianships: N/A
 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and/or others based upon 
expressed suicidal ideation.  His static factors noted at that 
time included increased risk of harm to self include history of 
suicide attempt, history of substance abuse, male gender, 
Caucasian race, age, and family history of suicide attempt. His 
modifiable risk factors included suicidal ideation, limited 
social supports, no established outpatient providers, insomnia, 
feeling trapped, active substance use (cannabis). Some 
modifiable risk factors were addressed during hospitalization 
via medication management, psychotherapeutic intervention, and 
aftercare coordination.  Finally, the patient is being 
discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, no agitation, 
family support, reality testing ability, no history of abuse. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with mixed emotional features vs MDD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

MENTAL STATUS:
- Appearance: no acute distress, young Caucasian male appearing
stated age, adequate hygiene and grooming, wearing casual 
clothes
- Behavior: calm, forthcoming, no psychomotor agitation or
retardation, appropriate eye contact
- Attitude: cooperative, engaged, friendly
-Mood: "in control"
- Affect: mood-congruent, full range, appropriate to situation
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: denies SI/HI, no evidence of paranoia, denies
AVH, not appearing to be attending to internal stimuli
- Judgment and Insight: Improved/Improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___